US08492549B2
(S)-2-[(R*)-3-(3-Hydroxy-phenyl)-piperidin-1-ylmethyl]-2,3-dihydro-benzo[1,4]dioxin-5-ol
A mixture of 3-[(R*)-1-((S)-5-benzyloxy-2,3-dihydro-benzo[1,4]dioxin-2-ylmethyl)-piperidin-3-yl]-phenol (84 mg, 0.19 mmol) and palladium-on-carbon (60 mg) in ethyl acetate (10 ml) were stirred and hydrogenated for 6 h. The reaction mixture was filtered and washed with ethyl acetate (10 ml), and evaporated to dryness. The crude product was purified with flash chromatography using dichloromethane and methanol as eluents to give 65 mg of the title compound.

reactant | 3-[(R*)-1-((S)-5-benzyloxy-2,3-dihydro-benzo[1,4]dioxin-2-ylmethyl)-piperidin-3-yl]-phenol | 0.19 mmol, 84 mg | C(C1=CC=CC=C1)OC1=CC=CC=2O[C@H](COC21)CN2C[C@H](CCC2)C=2C=C(C=CC2)O | C27H29NO4
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium-on-carbon | 60 mg | [Pd] | Pd
product | (S)-2-[(R*)-3-(3-Hydroxy-phenyl)-piperidin-1-ylmethyl]-2,3-dihydro-benzo[1,4]dioxin-5-ol | 65 mg | OC=1C=C(C=CC1)[C@@H]1CN(CCC1)C[C@H]1COC2=C(O1)C=CC=C2O | C20H23NO4
